US05025036
A mixture of 2.50 g (7.29 mmol) of 6-bromo-1-(3,4-dimethoxy-2,5-dimethylphenyl)-1-hexanone, 1.53 g (7.29 mmol) of 2,4-dihydroxy-3-propylbenzoic acid methyl ester and 3.30 g (24 mmol) of potassium carbonate in 50 mL of acetone and 5 mL of DMF was stirred and heated at reflux for 26 hours. After workup as in Example 16 the crude product was purified by HPLC using 10% ethyl acetate-hexane to give 3.40 g (98% yield) of 4-[[6-(3,4-dimethoxy-2,5-dimethylphenyl)-6-oxohexyl]oxy]-2-hydroxy-3-propyl benzoic acid methyl ester as an oil. The nmr spectrum was consistent with the structure.

reactant | 6-bromo-1-(3,4-dimethoxy-2,5-dimethylphenyl)-1-hexanone | 7.29 mmol, 2.50 g | BrCCCCCC(=O)C1=C(C(=C(C(=C1)C)OC)OC)C | C16H23BrO3
reactant | 2,4-dihydroxy-3-propylbenzoic acid methyl ester | 7.29 mmol, 1.53 g | COC(C1=C(C(=C(C=C1)O)CCC)O)=O | C11H14O4
reactant | potassium carbonate | 24 mmol, 3.30 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-[[6-(3,4-dimethoxy-2,5-dimethylphenyl)-6-oxohexyl]oxy]-2-hydroxy-3-propyl benzoic acid methyl ester | 3.40 g, 98% yield | COC(C1=C(C(=C(C=C1)OCCCCCC(=O)C1=C(C(=C(C(=C1)C)OC)OC)C)CCC)O)=O | C27H36O7
